US09127003B2
Methyl 2-(1-(cyclopropylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-7-methoxy-1-methyl-1H-benzo[d]imidazole-5-carboxylate (260 mg, 0.666 mmol) was dissolved in a 1:1 ratio of tetrahydrofuran (THF) (3.2 mL) and water (3.2 mL). To this was added lithium hydroxide monohydrate (140 mg, 3.33 mmol) and the reaction stirred at rt for 16 h. The reaction mixture was acidified by the addition of 2M HCl(aq) (20 mL) and the organics extracted into 10% MeOH/DCM (20 mL). The aqueous layer was washed with 10% MeOH/DCM (2×20 mL) and the combined organics dried (Na2SO4) and concentrated in vacuo to afford a yellow oil which solidified on standing (44 mg). Due to the poor recovery it was assumed the remainder of the product remained in the aqueous layer. The aqueous layer was further extracted with EtOAc (20 mL), DCM (2×20 mL) and 10% MeOH/DCM (8×10 mL). The combined organics were dried (Na2SO4) and concentrated in vacuo. Both crude products were combined together to form 2-(1-(cyclopropylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-7-methoxy-1-methyl-1H-benzo[d]imidazole-5-carboxylic acid (105 mg, 0.279 mmol, 41.9% yield).

reactant | Methyl 2-(1-(cyclopropylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-7-methoxy-1-methyl-1H-benzo[d]imidazole-5-carboxylate | 0.666 mmol, 260 mg | C1(CC1)CN1C(=CC=2C1=NC=CC2)C2=NC1=C(N2C)C(=CC(=C1)C(=O)OC)OC | C22H22N4O3
reactant | lithium hydroxide monohydrate | 3.33 mmol, 140 mg | O.[OH-].[Li+]
reactant | HCl | 2M, 20 mL | Cl | ClH
solvent | tetrahydrofuran | 3.2 mL | O1CCCC1 | C4H8O
solvent | water | 3.2 mL | O | H2O
product | 2-(1-(cyclopropylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-7-methoxy-1-methyl-1H-benzo[d]imidazole-5-carboxylic acid | 0.279 mmol, 105 mg, 41.9% yield | C1(CC1)CN1C(=CC=2C1=NC=CC2)C2=NC1=C(N2C)C(=CC(=C1)C(=O)O)OC | C21H20N4O3
